US05075435
A solution of (3S,4S)-4-(1-t-butyldimethylsilyloxymethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2azetidinone (1.0 g) and triethylamine (0.06 ml) in ethyl acetate (50 ml) was hydrogenated under hydrogen atmosphere in the presence of platinum dioxide (0.05 g) at 0°-5° C. for 2 hours. After removal of the catalyst, the filtrate was washed successively with 2 N hydrochloric acid, brine, 5% sodium bicarbonate solution and brine and dried over anhydrous magnesium sulfate. Filtration and concentration of the filtrate in vacuo gave (3S,4S)-4-(1-t-butyldimethylsilyloxymethylethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone.

reactant | (3S,4S)-4-(1-t-butyldimethylsilyloxymethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2azetidinone | 1.0 g | [Si](C)(C)(C(C)(C)C)OCC(=C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C39H51NO7Si
reactant | triethylamine | 0.06 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum dioxide | 0.05 g | [Pt](=O)=O
product | (3S,4S)-4-(1-t-butyldimethylsilyloxymethylethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | [Si](C)(C)(C(C)(C)C)OCC(C)[C@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C39H53NO7Si
